US08623859B2
5-({[(2,4-dichlorophenyl)sulfonyl](methyl)amino}methyl)-N-[4-(4,5-dihydro-1H-imidazol-2-yl)benzyl]-N-methylfuran-3-carboxamide
5-({[(2,4-dichlorophenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (34 mg, 0.08 mmol) was dissolved in DCE (1 mL) and CDI (26 mg, 0.16 mmol) was added. The reaction was stirred for 2 h. The activated acid solution in DCE was added to a vial containing 1-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]-N-methylmethanamine.HCl (41 mg, 0.16 mmol) and TEA (0.022 mL, 0.16 mmol). The reaction was stirred at ambient temperature for 18 h, then partitioned between saturated aqueous NaHCO3 (1 mL) and DCE (3×1 mL)). The organic layer was dried over MgSO4 and solvents were removed in vacuo. A portion of the crude was product purified using prep method A.

reactant | 5-({[(2,4-dichlorophenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.08 mmol, 34 mg | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O | C13H11Cl2NO5S
reactant | CDI | 0.16 mmol, 26 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]-N-methylmethanamine | N1C(=NCC1)C1=CC=C(C=C1)CNC | C11H15N3
reactant | HCl | 0.16 mmol, 41 mg | Cl | ClH
solvent | DCE | 1 mL | ClCCCl | C2H4Cl2
product | 5-({[(2,4-dichlorophenyl)sulfonyl](methyl)amino}methyl)-N-[4-(4,5-dihydro-1H-imidazol-2-yl)benzyl]-N-methylfuran-3-carboxamide | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)N(C)CC1=CC=C(C=C1)C=1NCCN1 | C24H24Cl2N4O4S
